US07282499B2
PtO2 (30 mg) is added to a solution of a E/Z isomers mixture of ethyl (1-(3,4-dichlorophenyl)-1,5,6,7-tetrahydro-4H-indazol-4-ylidene)acetate (1.5 g, 4.27 mmol) in acetic acid (25 mL); the mixture is maintained under stirring under a pressure of 1 H2 atm. A sample is next extracted and a 1H NRM is done. The mixture is then filtered, diluted with AcOEt, and washed with H2 O and with a saturated solution of NaHCO3. The solvent is next evaporated at reduced pressure, giving ethyl 2-(1-(3,4-dichlorophenyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl)acetate (1.0 g, 2.83 mmol, purity 66%, oil).

reactant | ethyl (1-(3,4-dichlorophenyl)-1,5,6,7-tetrahydro-4H-indazol-4-ylidene)acetate | 4.27 mmol, 1.5 g | ClC=1C=C(C=CC1Cl)N1N=CC=2C(CCCC12)=CC(=O)OCC | C17H16Cl2N2O2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 30 mg | O=[Pt]=O
product | ethyl 2-(1-(3,4-dichlorophenyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl)acetate | 2.83 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)N1N=CC=2C(CCCC12)CC(=O)OCC | C17H18Cl2N2O2
